US04625047
(2,3-Dichloro-4-acetylphenoxy)acetic acid (U.S. Pat. No. 3,453,312) (7.89 g, 0.03 mole), dimethylamine hydrochloride (2.34 g, 0.03 mole), paraformaldehyde (1.05 g, 0.033 mol. equiv.) and glacial acetic acid (1 ml) were combined and heated on a steam bath for two hours. The reaction mixture was treated with hot ethanol (50 ml) and then cooled. The white solid was separated by filtration, washed with ethanol, dried and recrystallized from a mixture of ethanol and ether to give [2,3-dichloro-4-(3-dimethylaminopropyl)phenoxy]acetic acid hydrochloride, m.p. 194°-196° C.

reactant | (2,3-Dichloro-4-acetylphenoxy)acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C)=O | C10H8Cl2O4
reactant | dimethylamine hydrochloride | 0.03 mole, 2.34 g | Cl.CNC
reactant | paraformaldehyde | 0.033 mol, 1.05 g | C=O | CH2O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(3-dimethylaminopropyl)phenoxy]acetic acid hydrochloride | Cl.ClC1=C(OCC(=O)O)C=CC(=C1Cl)CCCN(C)C | InChI=1S/C13H17Cl2NO3.ClH/c1-16(2)7-3-4-9-5-6-10(13(15)12(9)14)19-8-11(17)18;/h5-6H,3-4,7-8H2,1-2H3,(H,17,18);1H
